US04737512
Methyl 7-[4-(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)phenoxy]-2,2-dimethylheptanoate
N-[p-Hydroxyphenyl]phthalimide (5.0 g) described in Example 1 was dissolved in 100 ml of DMF and 1.13 g of NaOCH3 was added. The solution was stirred at room temperature for one-half hour, then 6.25 g of methyl 2,2-dimethyl-7-iodoheptanoate was added dropwise. The mixture was stirred at room temperature overnight and then heated at reflux for two hours and concentrated on rotary evaporator. H2O (100 ml) was added and a solid was obtained. The product was extracted with EtOAc leaving the insoluble starting material behind. Concentration of the ethyl acetate solution followed by recrystallization of the resulting solid from isopropyl ether gave the purified product; mp 82°-3° C.

reactant | N-[p-Hydroxyphenyl]phthalimide | 5.0 g | OC1=CC=C(C=C1)N1C(C=2C(C1=O)=CC=CC2)=O | C14H9NO3
reactant | NaOCH3 | 1.13 g | O([Na])C
reactant | methyl 2,2-dimethyl-7-iodoheptanoate | 6.25 g | CC(C(=O)OC)(CCCCCI)C | C10H19IO2
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | Methyl 7-[4-(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)phenoxy]-2,2-dimethylheptanoate | O=C1N(C(C2=CC=CC=C12)=O)C1=CC=C(OCCCCCC(C(=O)OC)(C)C)C=C1 | C24H27NO5
